US04438128
1-Phenoxy-3-[2-(5-methyl-s-triazolo[1,5-a]pyrimidin-7-ylamino)-ethylamino]-propan-2-ol
3.6 g. Phenyl glycidyl ether and 9.0 g. 5-methyl-7-(2-aminoethylamino)-s-triazolo[1,5-a]pyrimidine are dissolved in dimethyl sulphoxide and left to stand for 48 hours at 45° C. The reaction mixture is then poured into water, extracted with methylene chloride, dried and purified chromatographically in the manner described in Example 28. There are obtained 2.0 g. (24% of theory) of the desired product in the form of colorless crystals; m.p. 126°-127° C., after recrystallization from isopropyl alcohol.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 5-methyl-7-(2-aminoethylamino)-s-triazolo[1,5-a]pyrimidine | CC1=NC=2N(C(=C1)NCCN)N=CN2 | C8H12N6
reactant | water | O | H2O
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 1-Phenoxy-3-[2-(5-methyl-s-triazolo[1,5-a]pyrimidin-7-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=CC(=NC=2N1N=CN2)C)O | C17H22N6O2
